US05091387
1'-((4-Methoxyphenyl)SULFONYL)SPIRO-(1H-INDENE-1,4'-PIPERIDINE)
The procedure of example 3 was carried out using 20 mg (0.108 mmol) of spiro(1H-indene-1,4'-piperidine), and substituting p-methoxybenzenesulfonyl chloride (21 mg, 0.1 mmol) for the p-bromo derivative. The title compound was obtained as a solid: (m.p. 181°-183°).

reactant | spiro(1H-indene-1,4'-piperidine) | 0.108 mmol, 20 mg | N1CCC2(CC1)C=CC1=CC=CC=C12 | C13H15N
reactant | p-methoxybenzenesulfonyl chloride | 0.1 mmol, 21 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
product | 1'-((4-Methoxyphenyl)SULFONYL)SPIRO-(1H-INDENE-1,4'-PIPERIDINE) | COC1=CC=C(C=C1)S(=O)(=O)N1CCC2(CC1)C=CC1=CC=CC=C12 | C20H21NO3S
